Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Right arm pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/oF on Depo-Provera and active smoker, with progressive
RUE swelling x 1 week, transferred from ___ for RUE DVT
and PE. Patient reports being in her usual state of health up
until a week ago when she noted onset of cold symptoms (runny
nose, congestion). She reports taking Nyquil on ___ and
coughed all night long. On ___, she notes onset of right 
chest
and flank pain for which she presented to her PCP and was told
her symptoms were consistent with 'pulled muscle.' She was
prescribed Tramadol which she said did not help. On ___ 
she
reports sudden onset of RUE swelling with R axillary pain for
which she presented to her PCP and was referred in for further
workup. Of note she reports intermittent DOE and SOB at rest 
over
the past week but states that the pain and swelling were the 
most
bothersome symptoms. She denies fevers, chills, chest pain,
palpitations, abdominal pain, nausea, vomiting, numbness,
tingling, weakness, changes in her bowel movements, dysuria or
hematuria

At ___, imaging was notable for PE along with extensive DVT
in right arm (seen in basilic, axillary, subclavian veins) with
slightly elevated Troponin-T 0.04 (normal BNP) and EKG without
evidence of right heart strain. VS were within normal limits.
Patient was subsequently transferred to ___ for consideration
of thrombolysis

In the ED,
- Initial vitals: 96.6 HR 90 BP 140/87 RR 18 O2Sat 97%RA
- Exam notable for: Right arm mildly erythematous and diffusely
warm compared to left. Minimally tense and warm and visibly
larger than left arm. Distal pulses and capillary refill intact
and symmetric. Lower extremities symmetric, w/o cord or edema. 
- Labs showed:  
- Imaging showed: negative trop x 1 set, WBC 10.3
- Patient received: heparin gtt, nicotine patch
- Vascular was consulted: Unprovoked RUE DVT with PE. Suspect
hypercoagulable state based on FHc and clinical presentation.
Recommend admission to medicine for workup and continued
anticoagulation. Vascular will follow, no need for additional
intervention at this time.   
- Transfer VS were: 98.4 HR 72 BP 131/76 RR 16 O2Sat 96%RA 

On arrival to the floor, patient endorses the history above
without any new acute complaints. She denies any recent flights,
prolonged periods of immobility, or recent surgeries

REVIEW OF SYSTEMS:
Denies fevers/chills, nausea/vomiting, shortness of breath, 
chest
pain/dizziness, palpitations, abdominal pain,
constipation/diarrhea, urinary symptoms, numbness/weakness. 

 
Past Medical History:
Roux-en-Y gastric bypass, cholecystectomy in ___. No prior 
history of DVT or PE. 
 
Social History:
___
Family History:
Sister with multiple DVTs since ___ y/o with hypercoagulable 
workup positive for a 'risk factor' that puts her at increased 
risk of blood clot formation. No other family members with DVTs. 


 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: 98.6PO 123/75 72 18 96 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple
Lungs: CTAB, no wheezes, rales, or rhonchi  
CV: RRR, S1/S2, no m/r/g 
GI: soft, NT/ND, BS+, no rebound tenderness or guarding, no
organomegaly  
MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CN2-12 intact, ___ strength in all extremities, sensation
grossly intact
Skin:  No rash or lesion

DISCHARGE PHYSICAL EXAM
========================
Vitals: VSS, reviewed in POE  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple
Lungs: CTAB, no wheezes, rales, or rhonchi  
CV: RRR, S1/S2, no m/r/g 
GI: soft, NT/ND, BS+, no rebound tenderness or guarding, no
organomegaly  
MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CN2-12 intact, ___ strength in all extremities, sensation
grossly intact
Skin:  No rash or lesion
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:52AM BLOOD WBC-10.3* RBC-3.70* Hgb-11.9 Hct-35.4 
MCV-96 MCH-32.2* MCHC-33.6 RDW-12.8 RDWSD-44.8 Plt ___
___ 01:52AM BLOOD Neuts-57.1 ___ Monos-7.4 Eos-1.8 
Baso-0.4 Im ___ AbsNeut-5.89 AbsLymp-3.40 AbsMono-0.76 
AbsEos-0.19 AbsBaso-0.04
___ 01:52AM BLOOD ___ PTT-129.2* ___
___ 01:52AM BLOOD Glucose-90 UreaN-9 Creat-0.7 Na-140 K-4.1 
Cl-104 HCO3-23 AnGap-13
___ 01:52AM BLOOD cTropnT-<0.01
___ 05:40PM BLOOD cTropnT-<0.01
___ 06:15AM BLOOD Calcium-8.7 Phos-3.4 Mg-2.0

DISCHARGE LABS
==============
___ 06:15AM BLOOD WBC-8.6 RBC-3.42* Hgb-10.9* Hct-32.6* 
MCV-95 MCH-31.9 MCHC-33.4 RDW-12.9 RDWSD-44.6 Plt ___
___ 06:15AM BLOOD Glucose-96 UreaN-9 Creat-0.7 Na-138 K-4.3 
Cl-103 HCO3-22 AnGap-13
___ 06:15AM BLOOD Calcium-8.7 Phos-3.4 Mg-2.___ y/o F active smoker with progressive RUE swelling x 1 week, 
transferred from ___ for consideration of thrombolysis 
after workup was positive for extensive RUE DVT and PE. 

#RUE DVT
#PE. Patient presents after few days of RUE swelling/axillary 
pain with intermittent SOB/DOE. DVT appears to be unprovoked at 
this time (no recent surgeries, estrogen use, no active 
malignancy). RUE venous US was significant for extensive venous 
thrombosis throughout basilic, axillary, and subclavian veins. 
CTA was positive for PE in RLL branches without evidence of 
saddle embolus or RH strain. She initially presented with mild 
trop-I elevation to 0.04 with normal BNP. Two sets of troponins 
at ___ were negative. She was initially transferred to ___ 
for consideration of thrombolysis, which vascular surgery did 
not think was indicated. She was continued on a heparin gtt and 
transitioned to Elliquis

TRANSITIONAL ISSUES
====================
[ ] Will need hypercoagulability workup given positive family 
history (sister with history of blood clots and was told she had 
a risk factor that placed her at high risk for clots)
[ ] Will need age appropriate malignancy screening i.e. 
consideration of screening mammogram at ___ years old
[ ] Consider outpatient TTE given PE diagnosis, although mild 
troponin elevation/negative BNP and no evidence of right heart 
strain on diagnostics at this time
[ ] Advise counseling on smoking cessation

====================
Greater than 30 minutes were spent on discharge planning and 
coordination. I personally sent the PCP ___ secure email regarding 
her plan of care upon discharge and hospital course.

-___, MD
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methylprednisolone ACETATE Dose is Unknown  IM Frequency is 
Unknown 
2. B-12 Plus (cyanocobalamin-cobamamide) 5,000-100 mcg 
sublingual DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*0
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3 
2.  B-12 Plus (cyanocobalamin-cobamamide) 5,000-100 mcg 
sublingual DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
RIGHT UPPER EXTREMITY DVT
PULMONARY EMBOLISM

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized at ___ after extensive blood clots were 
found in the veins in your arms with spread to the vasculature 
in your lungs. You were treated with heparin to thin the blood 
and prevent additional blood clots from forming. You were 
transitioned to an oral medication that will keep you blood 
thin. It is called Elliquis.

It is very important that you see your PCP within the week for 
follow-up. You and your PCP ___ discuss the optimal treatment 
duration but it will be for at least three months.

NEW MEDICATIONS: Elliquis

We wish you the best,

Your ___ Team
 
Followup Instructions:
___